US06251905B1
ii) Synthesis of 3-trichloroacetyl-5-[N-tert-butoxycarbonyl-N-[5-(trifluoromethanesulfonamido)pentan-1-yl]aminomethyl]imidazo[1,2-a]pyridine
To a solution of 3.55 g (7.64 mmol) of 5-[N-tert-butoxycarbonyl-N-[5-(trifluoromethanesulfonamido)pentan-1-yl]aminomethyl]imidazo[1,2-a]pyridine and 2.80 g (22.92 mmol) of 4-dimethylaminopyridine in 35 ml of chloroform was added dropwise 2.6 ml (22.92 mmol) of trichloroacetyl chloride, while stirring at room temperature for 3 minutes. The reaction mixture was heated for 15 hours under reflux. The reaction mixture was poured into ice-water, which was neutralized with a saturated aqueous solution of sodium hydrogencarbonate, which was extracted with 150 ml of chloroform. The organic layer was washed with 250 ml of a saturated aqueous saline solution, which was dried over magnesium sulfate, followed by distilling off the solvent under reduced pressure. The residue was purified by silicagel column chromatography (eluent: chloroform/methanol=100:1) to give 2.70 g of the desired compound (58.2%, pale yellow liquid).

reactant | 5-[N-tert-butoxycarbonyl-N-[5-(trifluoromethanesulfonamido)pentan-1-yl]aminomethyl]imidazo[1,2-a]pyridine | 7.64 mmol, 3.55 g | C(C)(C)(C)OC(=O)N(CCCCCNS(=O)(=O)C(F)(F)F)CC1=CC=CC=2N1C=CN2 | C19H27F3N4O4S
reactant | trichloroacetyl chloride | 22.92 mmol, 2.6 ml | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
catalyst | 4-dimethylaminopyridine | 22.92 mmol, 2.80 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | 35 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-trichloroacetyl-5-[N-tert-butoxycarbonyl-N-[5-(trifluoromethanesulfonamido)pentan-1-yl]aminomethyl]imidazo[1,2-a]pyridine | 2.70 g, 58.2% | ClC(C(=O)C1=CN=C2N1C(=CC=C2)CN(CCCCCNS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C)(Cl)Cl | C21H26Cl3F3N4O5S
